Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
seafood / abacavir sulfate / Phenothiazines
 
Attending: ___.
 
Chief Complaint:
Scheduled chemotherapy

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ yo M with DLBCL on DA-R-EPOCH, HIV 
(CD4
58), who is here for C3 of DA-R-EPOCH.

He was started on D-RA-EPOCH ___. He has tolerated previous
chemo well. 

Today he reports he feels well. He has noticed that the tips of
his fingers are a little more pigmented, which his oncology team
has attributed to the vincristine. He also reported a twinging
sensation in his left chest, which he reported to Dr ___ ago. It has since resolved

He otherwise denies any sick symptoms including fevers/chills,
nausea/vomiting, diarrhea, cough, cold symptoms, dysuria, rash.
His last BM was yesterday. 

A 10 point review of systems is negative unless otherwise
specified

 
Past Medical History:
HIV- dx in ___
HTN
HLD
Depression
h/o shingles
seasonal allergies
tonsillectomy at age ___
 
DLBCL
 He reports he had been having left sided chest pain since the
end of ___. He described the pain as achy and thought he
had a pulled muscle. He has being followed by his pcp who did ___
chest x ray which was negative. Pain worsened, he went to the
___ ER ___ CTA chest and abdomen revealed a 6 cm soft
tissue mass surrounding the left fourth rib with an associated
pathologic fracture, 1.2 cm soft tissue nodule abutting the left
psoas, an expansile mixed lytic and sclerotic T10 lesion, a 2.5
cm indeterminate right adrenal nodule, retroperitoneal LAD.
Possible bone lesions in L 7th rib, R iliac and R acetabulum. He
then underwent an ___ guided biopsy of this soft tissue mass on
___, which showed diffuse large B cell lymphoma, CD20+, CD10
neg, Ki67 80-90%, EBV RNA neg and BCL 6 rearrangement. 

Treatment history: 
___: IT MTX
___: C1D1 da-EPOCH, dose level 1
___: C1D1 Rituxan
___: C2D1 da-R-EPOCH, dose level 1

 
Social History:
___
Family History:
Mother (d) ___- MI
Father (d) ___- aortic stenosis, COPD
PGM (d) 53 - Stomach CA
PGF (d) 40s - MI
2 Brothers with hemochromatosis
another brother and 1 sister all alive and well.
No other known family history of blood cancers or blood
disorders.
 
Physical Exam:
ADMISSION PHYSICIAL EXAM:
VITALS: 
T 97.7 F | 123/89 | 87 | 97% RA

General: Well appearing Caucasian man, sitting up in chair,
pleasant and conversant
Neuro:
Cranial nerves: PERRL, EOMI, Facial sensation equal bilaterally,
resists eye opening ___, hearing intact to finger rub b/l, 
palate
elevates symmetrically, tongue midline, shoulder shrug ___
Motor: 
___ handgrip bilaterally
___ hip flexion
Sensation intact to light touch over UE and ___
Alert and oriented, provides clear and cogent history
Psych: Reports mood is good, Cheerful affect
HEENT: Oropharynx clear, no lesions, no palpable cervical or
supraclavicular adenopathy, no scleral icterus. 
Cardiovascular: RRR no murmurs
Chest/Pulmonary: Clear to auscultation bilaterally
Abdomen: Soft, nontender, nondistended, normoactive bowel sounds
Extr/MSK: No peripheral edema
Skin: Warm and well perfused, no rashes seen
Access: R POC site c/d/I, nontender to palpation. Left chest 
wall
nontender to palpation. 

DISCHARGE EXAM:
T 97.9 BP 152/99 HR 71, RR 18, O2 99%RA
General: Well appearing man sitting up in bedside chair
comfortably in no distress.
Neuro: PERRL, Palate elevates symmetrically, alert and oriented.
Sensation intact to light touch of fingers
HEENT: Oropharynx clear, no lesions, no scleral icterus. 
Cardiovascular: RRR no murmurs
Chest/Pulmonary: Clear to auscultation bilaterally
Abdomen: Soft, nontender, nondistended, normoactive bowel sounds
Extr/MSK: No peripheral edema
Skin: Warm and well perfused, no rashes seen
Access: R POC site c/d/I, nontender to palpation

 
Pertinent Results:
ADMISSION LABS:
===============
___ 12:25PM BLOOD WBC-6.7 RBC-3.16* Hgb-10.6* Hct-31.8* 
MCV-101* MCH-33.5* MCHC-33.3 RDW-16.1* RDWSD-56.3* Plt ___
___ 12:25PM BLOOD UreaN-9 Creat-1.1 Na-141 K-4.4 Cl-102 
HCO3-23 AnGap-16
___ 12:25PM BLOOD ALT-15 AST-18 LD(LDH)-264* AlkPhos-92 
TotBili-0.3
___ 12:25PM BLOOD Calcium-9.5 UricAcd-4.8

DISCHARGE LABS:
===============

___ 12:00AM BLOOD WBC-10.3* RBC-2.75* Hgb-9.1* Hct-27.3* 
MCV-99* MCH-33.1* MCHC-33.3 RDW-16.3* RDWSD-57.8* Plt ___
___ 12:00AM BLOOD Neuts-94.8* Lymphs-2.3* Monos-1.8* 
Eos-0.0* Baso-0.0 NRBC-0.2* Im ___ AbsNeut-9.75* 
AbsLymp-0.24* AbsMono-0.18* AbsEos-0.00* AbsBaso-0.00*
___ 12:00AM BLOOD Glucose-120* UreaN-19 Creat-0.8 Na-140 
K-4.3 Cl-102 HCO3-26 AnGap-12
___ 12:00AM BLOOD ALT-16 AST-16 LD(LDH)-200 AlkPhos-67 
TotBili-0.4
___ 12:00AM BLOOD Calcium-9.3 Phos-3.6 Mg-2.1
 
Brief Hospital Course:
PRINCIPLE REASON FOR ADMISSION:
___ yo M with DLBCL on DA-R-EPOCH, HIV (CD4 ___), who was admitted 
for
C3 of DA-R-EPOCH. Started C3D1 on ___ also received rituximab 
on ___. Tolerated treatment well. He will start daily neupogen 
on ___ and plans to follow up with biweekly count checks through 
his local ___ office.

# Diffuse large B cell lymphoma: Known involvement of soft 
tissue, bones, nodes, adrenal. Here for C3 of DA-R-EPOCH. He is 
planned for 6 cycles of da R-EPOCH with curative intent and then 
2 cycles of HD-MTX CNS ppx.  Started C3D1 on ___ also received 
rituximab on ___. Tolerated treatment well. He will start daily 
neupogen on ___ and plans to follow up with biweekly count 
checks through his local ___ office.

#Chemotherapy induced anemia, at baseline.

#Chemotherapy induced constipation: Stooling daily. Utilized 
Senna and Colace standing. Lactulose PRN.

#HIV, CD4 58 on ___. Continued dolutegravir and 
emtricitabine-tenofovir. Notably, seen by ID at start of 
chemotherapy, recommended against MAC ppx if CD4<50 as this is 
transient in s/o chemotherapy and expected to recover.

#Depression/anxiety: off wellbutrin d/t concern for interaction 
with chemotherapy. Pleasant affect, and reports mood is doing 
well off treatment.
 
#HTN: Off lisinopril and statin - states he was started for 
white coat htn and has not required

# Billing: >30 minutes spent coordinating and executing this 
discharge plan.

TRANSITIONAL ISSUES:
- Will need to take last 100mg dose of prednisone am of ___
- Biweekly CBC will be checked through local ___ (except for 
days he is scheduled to see Dr. ___ in ___ clinic)
- Neupogen to start ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 400 mg PO Q12H 
2. Allopurinol ___ mg PO DAILY 
3. Cetirizine 10 mg PO DAILY:PRN allergies 
4. Dolutegravir 50 mg PO DAILY 
5. Emtricitabine-Tenofovir alafen (200mg-25mg) *DESCOVY* 1 TAB 
PO DAILY 
6. LORazepam 0.5-1 mg PO Q6H:PRN nausea anxiety insomnia 
7. Multivitamins 1 TAB PO DAILY 
8. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
9. Vitamin D 1000 UNIT PO DAILY 
10. Filgrastim-sndz 480 mcg SC Q24H 
11. Ondansetron ODT 8 mg PO Q8H:PRN nausea 
12. Pravastatin 80 mg PO QPM 

 
Discharge Medications:
1.  PredniSONE 100 mg PO BID Duration: 5 Days 
take one dose the morning of ___ 
RX *prednisone 50 mg 2 tablet(s) by mouth once Disp #*2 Tablet 
Refills:*0 
2.  Acyclovir 400 mg PO Q12H  
3.  Allopurinol ___ mg PO DAILY  
4.  Cetirizine 10 mg PO DAILY:PRN allergies  
5.  Dolutegravir 50 mg PO DAILY  
6.  Emtricitabine-Tenofovir alafen (200mg-25mg) *DESCOVY* 1 TAB 
PO DAILY  
7.  Filgrastim-sndz 480 mcg SC Q24H  
8.  LORazepam 0.5-1 mg PO Q6H:PRN nausea anxiety insomnia  
9.  Multivitamins 1 TAB PO DAILY  
10.  Ondansetron ODT 8 mg PO Q8H:PRN nausea  
11.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY  
12.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# Diffuse large b-cell lymphoma
# Encounter for chemotherapy
# HIV

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking of you at ___ 
___. You were admitted for you scheduled chemotherapy, which 
you tolerated well. Please take one dose of prednisone 100mg the 
morning of ___, and be sure to start taking your neupogen 
(Zarxio) shots on the morning of ___. You will also need to have 
your blood counts checked twice weekly and follow up with Dr. 
___ as scheduled. 

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___